US06610701B2
A solution of 4-o-tolyl-[1,2,3]thiadiazole (100 mg, 0.57 mmol), N-bromosuccinimide (100 mg, 0.57 mmol) and 2,2′-azobisisobutyronitrile (9.4 mg, 0.057 mmol) in chloroform (10 ml) was heated at reflux temperature for ˜18 h. Additional chloroform was added and the mixture was washed with water, 5% sodium thiosulfate solution and brine. Drying and solvent evaporation gave 4-(2-bromomethyl-phenyl)-[1,2,3]thiadiazole; 1H NMR (CDCl3, 300 MHz) δ8.87 (s, 1H), 7.67-7.39 (m, 4H), 4.71 (s, 2H). cls Step D: 4-(2-Azidomethyl-phenyl)-[1,2,3]thiadiazole (I-13-4)

reactant | 4-o-tolyl-[1,2,3]thiadiazole | 0.57 mmol, 100 mg | C1(=C(C=CC=C1)C=1N=NSC1)C | C9H8N2S
reactant | N-bromosuccinimide | 0.57 mmol, 100 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobisisobutyronitrile | 0.057 mmol, 9.4 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(2-bromomethyl-phenyl)-[1,2,3]thiadiazole | BrCC1=C(C=CC=C1)C=1N=NSC1 | C9H7BrN2S
